US08378107B2
Step 1: [3-(3-{[Ethyl-(2-methoxy-acetyl)-amino]-methyl}-quinolin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 5, Step 5, using the following starting materials: [3-(3-ethylaminomethyl-quinolin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester; dihydrochloride and methoxyacetyl chloride.

reactant | [3-(3-ethylaminomethyl-quinolin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC2=CC=CC=C2C=C1CNCC)=O | C23H26N2O3
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
product | [3-(3-{[Ethyl-(2-methoxy-acetyl)-amino]-methyl}-quinolin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC2=CC=CC=C2C=C1CN(C(COC)=O)CC)=O | C26H30N2O5
